US04389409
D. 1-(α-n-Butylthio-2,4-dichlorophenethyl)imidazole
Butyl mercaptan, 4.32 g (0.048 mole), was added to a solution of 2.376 g (0.044 mole) sodium methoxide in 100 ml of methanol and the mixture stirred 30 minutes followed by addition of 10.0 g (0.032 mole) of 1-(α-chloro-2,4-dichlorophenethyl) imidazole hydrochloride in 100 ml methanol. The total mixture was heated to reflux for 4 hours. After cooling, the mixture was poured into an excess of H2O and the organic layer extracted with ether. The combined ether extracts were washed with 10% NaOH, with H2O, then dried over MgSO4, and filtered. Dry HCl gas was passed through the ether solution to give an oily liquid. Trituration of the oily salt in ethyl acetate was not successful in giving a solid product. The oily salt was dissolved in methanol, treated with excess NH4OH, and converted back to the free base. A total of 4.35 g (42.3%) of the free base was recovered. H1 nmr: DMSO δ TMS 7.38 (m, 6H, aryl/imidazole; 4.6 (m, 3H, CH/CH2), 0.6 to 2.76 (m, 9H, C4H9).

reactant | Butyl mercaptan | C(CCC)S | C4H10S
reactant | sodium methoxide | 0.044 mole, 2.376 g | C[O-].[Na+]
reactant | 1-(α-chloro-2,4-dichlorophenethyl) imidazole hydrochloride | 0.032 mole, 10.0 g | Cl.ClC(CC1=C(C=C(C=C1)Cl)Cl)N1C=NC=C1
reactant | NH4OH | [NH4+].[OH-]
solvent | methanol | 100 ml | CO | CH4O
solvent | methanol | 100 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | H2O | O | H2O
product | 1-(α-n-Butylthio-2,4-dichlorophenethyl)imidazole | C(CCC)SC(CC1=C(C=C(C=C1)Cl)Cl)N1C=NC=C1 | C15H18Cl2N2S
